US07763584B2
A mixture of (2R,6S,13aS,14aR,16aS,Z)-ethyl 2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-8-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[n]pyrrolo[2,1-c][1,4,8]triazacyclopentadecine-14a-carboxylate (60 mg, 0.071 mmol) and LiOH monohydrate (34.0 mg, 1.419 mmol) in tetrahydrofuran (2 mL)/water (0.5 mL)/MeOH (1 mL) was stirred at rt for 18 h. It was then concentrated in vacuo and partitioned between water and ether. The aqueous phase was adjusted to pH=4 using 1N HCl and extracted with EtOAc. The organic phase was then dried over MgSO4, filtered, and concentrated to isolate 52 mg of the crude product as an off-white solid. Purification by preparative HPLC gave 15 mg of (2R,6S,13aS,14aR,16aS,Z)-2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-8-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[n]pyrrolo[2,1-c][1,4,8]triazacyclopentadecine-14a-carboxylic acid as a white solid.

reactant | (2R,6S,13aS,14aR,16aS,Z)-ethyl 2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-8-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[n]pyrrolo[2,1-c][1,4,8]triazacyclopentadecine-14a-carboxylate | 0.071 mmol, 60 mg | C1(=CC=C(C=C1)[C@@]1(C[C@H]2C(N[C@]3([C@H](\C=C/CCCN(C[C@@H](C(N2C1)=O)NC(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C3)C(=O)OCC)=O)OC)C3=CC=CC=C3 | C43H51N5O11S
reactant | water | 0.5 mL | O | H2O
reactant | MeOH | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2R,6S,13aS,14aR,16aS,Z)-2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-8-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[n]pyrrolo[2,1-c][1,4,8]triazacyclopentadecine-14a-carboxylic acid | 15 mg | C1(=CC=C(C=C1)[C@@]1(C[C@H]2C(N[C@]3([C@H](\C=C/CCCN(C[C@@H](C(N2C1)=O)NC(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C3)C(=O)O)=O)OC)C3=CC=CC=C3 | C41H47N5O11S
